US09422281B2
N-Bromosuccinimide (0.090 g, 0.507 mmol) was added in one portion to a 0° C. solution of (S)-2-(4-nitropyridin-3-ylamino)propane-1-ol (0.100 g, 0.507 mmol) in acetonitrile (2.0 mL). The mixture stirred at 0° C. and was allowed to warm to room temperature over 16 h. The solution was then concentrated to remove most (>90%) of the acetonitrile. Ethyl acetate was added, and the solution was washed with saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford (S)-2-(6-bromo-4-nitropyridin-3-ylamino)propane-1-ol (0.056 g, 40%) as an orange solid. MS (ESI, pos. ion) m/z 276, 278.

reactant | N-Bromosuccinimide | 0.507 mmol, 0.090 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (S)-2-(4-nitropyridin-3-ylamino)propane-1-ol | 0.507 mmol, 0.100 g | [N+](=O)([O-])C1=C(C=NC=C1)N[C@H](CO)C | C8H11N3O3
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | (S)-2-(6-bromo-4-nitropyridin-3-ylamino)propane-1-ol | 0.056 g, 40% | BrC1=CC(=C(C=N1)N[C@H](CO)C)[N+](=O)[O-] | C8H10BrN3O3
